US07053089B2
Sodium borohydride (40 g) was added in portions to a stirred solution of ethyl N-benzyl-3-oxopiperidine-4-carboxylate hydrochloride (23.6 g, 90 mmol) in methanol (500 mL), over 2 h. Water (300 mL) was added slowly, the mixture stirred for 15 min and then the organics were evaporated. The residue was partitioned between DCM and water (×3), the combined organic layers dried over anhydrous sodium sulfate, and the solvent evaporated to give 1-benzyl-4-hydroxymethyl-piperidin-3-ol product as a cis/trans mixture, which was used in the next step without further purification. M.S (M+1): 222.

reactant | Sodium borohydride | 40 g | [BH4-].[Na+]
reactant | ethyl N-benzyl-3-oxopiperidine-4-carboxylate hydrochloride | 90 mmol, 23.6 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | Water | 300 mL | O | H2O
solvent | methanol | 500 mL | CO | CH4O
product | 1-benzyl-4-hydroxymethyl-piperidin-3-ol | C(C1=CC=CC=C1)N1CC(C(CC1)CO)O | C13H19NO2
